US06664256B1
Preparation of 3,4-bis(4-methoxyphenyl)-6-(3,4,5-trichlorophenylthio)pyridazine
In a similar manner as in Example 2, 3,4-bis(4-methoxyphenyl)-6-chloropyridazine (200 mg, 0.613 mmol) and 3,4,5-trichlorothiophenol [Ger. Offen. DE 2515699 19751023 (Dow Chemical Co., U.S.A.)] were reacted as starting materials at 100° C. for 72 hours and post-treatment was then conducted, whereby the title compound was obtained as a colorless amorphous solid (125.3 mg, 40.6%)

reactant | 3,4-bis(4-methoxyphenyl)-6-chloropyridazine | 0.613 mmol, 200 mg | COC1=CC=C(C=C1)C=1N=NC(=CC1C1=CC=C(C=C1)OC)Cl | C18H15ClN2O2
reactant | 3,4,5-trichlorothiophenol | ClC=1C=C(C=C(C1Cl)Cl)S | C6H3Cl3S
product | 3,4-bis(4-methoxyphenyl)-6-(3,4,5-trichlorophenylthio)pyridazine | COC1=CC=C(C=C1)C=1N=NC(=CC1C1=CC=C(C=C1)OC)SC1=CC(=C(C(=C1)Cl)Cl)Cl | C24H17Cl3N2O2S
